US04668669
2-(1-Imidazolyl)ethanethiolacetate can be prepared by a method similar to that described in Example 11 for the preparation of the starting material, but starting from 2-(1-imidazolyl)ethanol (15 g), triphenylphosphine (70.2 g), diisopropyl azodicarboxylate (55.8 cc) and thiolacetic acid (21 cc). After purification by "flash" chromatography [eluent: methylene chloride (1500 c), followed by ethyl acetate-methanol (80-20 by volume)], 100-cc fractions being collected, and concentrating fractions 21 to 35 to dryness under reduced pressure (2.7 kPa) at 30° C., 2-(1-imidazolyl)ethylthioacetate (21.14 g) is obtained in the form of an orange-yellow oil which is used without further purification.

reactant | 2-(1-imidazolyl)ethanol | 15 g | N1(C=NC=C1)CCO | C5H8N2O
reactant | triphenylphosphine | 70.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 55.8 cc | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | thiolacetic acid | 21 cc | S1C(=CC=C1)CC(=O)O | C6H6O2S
product | 2-(1-imidazolyl)ethylthioacetate | 21.14 g | N1(C=NC=C1)CCOC(C)=S | C7H10N2OS
